US07521447B2
Step F: 5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-carbonitrile (16d):
6-Bromo-5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole (31.2 g, 82 mmol) and Cu(I)CN (13.9 g, 156 mmol) were dissolved in DMA and degassed with nitrogen under vacuum. The reaction mixture was heated to 150° C. for 16 hours. The mixture was cooled to room temperature and diluted with ethyl acetate before washing twice with 7M NH4OH. The organics were washed with brine and degassed with nitrogen before being dried over MgSO4 and concentrated under reduced pressure. The crude product was chromatographed eluting with 10% ethyl acetate in hexanes to afford 25.1 g of product (95% yield).

reactant | 6-Bromo-5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole | 82 mmol, 31.2 g | BrC1=C(C=C2C=NN(C2=C1)CC(C)C)OC1=C(C=C(C=C1)F)F | C17H15BrF2N2O
reactant | DMA | CC(=O)N(C)C | C4H9NO
product | 5-(2,4-Difluorophenoxy)-1-isobutyl-1H-indazole-6-carbonitrile | 25.1 g, 95% yield | FC1=C(OC=2C=C3C=NN(C3=CC2C#N)CC(C)C)C=CC(=C1)F | C18H15F2N3O
